US04485117
A mixture of 2-chloro-1,4-naphthoquinone (21 g), 4-t-butylcyclohexane-1-carboxylic acid (19.8 g) and silver nitrate (3.6 g) was heated at 70°-75° C. with vigorous stirring in a solvent mixture of acetonitrile (30 ml), sulpholane (90 ml) and water (210 ml) whilst a solution of ammonium persulphate (34.2 g) in water (60 ml) was added dropwise during 30 minutes. Stirring and heating was continued for a further hour, the mixture cooled in ice and extracted with diethyl ether. The extracts were washed with aqueous sodium bicarbonate solution, dried and evaporated under reduced pressure to a semi-solid which was crystallised twice from acetonitrile to provide 2-(4-butylcyclohexyl)-3-chloro-1,4-naphthoquinone m.p. 107°-110°.

reactant | 2-chloro-1,4-naphthoquinone | 21 g | ClC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H5ClO2
reactant | 4-t-butylcyclohexane-1-carboxylic acid | 19.8 g | C(C)(C)(C)C1CCC(CC1)C(=O)O | C11H20O2
reactant | sulpholane | 90 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | ammonium persulphate | 34.2 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 60 ml | O | H2O
catalyst | silver nitrate | 3.6 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 210 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-(4-butylcyclohexyl)-3-chloro-1,4-naphthoquinone | C(CCC)C1CCC(CC1)C=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C20H23ClO2
